US05556875
3,6-Bis(cyclopropanecarbonyloxymethyl)-1,2-dithiin (Dithiin I)
To a stirred solution of triethylamine (0.30 mL) in tetrahydrofuran (2.0 mL) at 0° C. was added dropwise cyclopropanecarbonyl chloride (0.10 mL) followed by the addition of 3,6-bis(hydroxymethyl)-1,2-dithiin, Dithiin A (20 mg, 0.113 mmol) in tetrahydrofuran (1.0 mL). After stirring in the dark at room temperature overnight the mixture was diluted with ether (20 mL) and partitioned between 1.0M H3PO4 (80 mL) and diethyl ether (30 mL). The diethyl ether layer was washed with saturated NaHCO3 (100 mL), dried (Na2SO4), and evaporated to give a red oil (31.5 mg): 1H NMR (CDCl3) δ6.38 (s, 2H), 4.71 (s, 4H), 1.67 (m, 2H), 1.04 (m, 4H), 0.92 (m, 4H).

reactant | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.10 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 3,6-bis(hydroxymethyl)-1,2-dithiin | OCC=1SSC(=CC1)CO | C6H8O2S2
reactant | Dithiin | S1SC=CC=C1 | C4H4S2
reactant | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3,6-Bis(cyclopropanecarbonyloxymethyl)-1,2-dithiin | 31.5 mg | C1(CC1)C(=O)OCC=1SSC(=CC1)COC(=O)C1CC1 | C14H16O4S2
